US07514566B2
5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)thiazol-5-yl)-2-fluorobenzonitrile (0.042 g, 0.100 mmol) was taken up in hydrazine (0.50 mL) in a microwave safe tube. The tube was sealed and heated in a Personal Chemistry microwave unit to 100° C. for 5 minutes. The hydrazine was then removed under reduced pressure, and the residue was purified by HPLC (95:5 to 70:30 water:MeCN over 45 minutes), affording 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)thiazol-5-yl)-1H-indazol-3-amine (0.027 g, 0.062 mmol, 62% yield) as a yellow amorphous solid. 1H NMR (400 MHz, CD3OD) δ ppm 7.75-7.71 (m, 1H), 7.67-7.60 (m, 2H), 7.51-7.45 (m, 3H), 7.34-7.25 (m, 2H), 3.64-3.48 (m, 2H), 3.42-3.34 (m, 1H), 3.09-3.00 (m, 1H), 2.89 (dd, J=13.8, 7.1 Hz, 1H), 1.95-1.91 (m, 1H). HRMS (M+H) for C25H27F3N6O2S calc. 433.14168, obs. 433.14225.

reactant | 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)thiazol-5-yl)-2-fluorobenzonitrile | 0.100 mmol, 0.042 g | N[C@H](CNC=1SC(=CN1)C=1C=CC(=C(C#N)C1)F)CC1=CC=C(C=C1)C(F)(F)F | C20H16F4N4S
reactant | hydrazine | 0.50 mL | NN | H4N2
product | 5-(2-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)thiazol-5-yl)-1H-indazol-3-amine | 0.062 mmol, 0.027 g, 62% yield | N[C@H](CNC=1SC(=CN1)C=1C=C2C(=NNC2=CC1)N)CC1=CC=C(C=C1)C(F)(F)F | C20H19F3N6S
